US08211908B2
To a solution of 1.2 g of 1,8-naphthyridin-2(1H)-one in 18 mL of N,N-dimethylformamide, 0.36 g of 60% sodium hydride was added, and the mixture was stirred at 50 to 60° C. for 7 minutes. Thereto was added 0.94 mL of 2-bromomethyl-1,3-dioxolan, and the mixture was stirred at 95 to 105° C. for 3 hours. The reaction mixture was cooled to room temperature, water and ethyl acetate were then added thereto, and the organic layer was separated. The aqueous layer was extracted with ethyl acetate and chloroform. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of hexane:ethyl acetate=1:1 to obtain 1.2 g of 1-(1,3-dioxolan-2-ylmethyl)-1,8-naphthyridin-2(1H)-one as a white solid.

reactant | 1,8-naphthyridin-2(1H)-one | 1.2 g | N1C(C=CC2=CC=CN=C12)=O | C8H6N2O
reactant | sodium hydride | 0.36 g | [H-].[Na+]
reactant | 2-bromomethyl-1,3-dioxolan | 0.94 mL | BrCC1OCCO1 | C4H7BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 18 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(1,3-dioxolan-2-ylmethyl)-1,8-naphthyridin-2(1H)-one | 1.2 g | O1C(OCC1)CN1C(C=CC2=CC=CN=C12)=O | C12H12N2O3
